* Z:\mnt\spice-netlists\LTC4440_TA01_LTC3722-1.asc
XU1 MP_01 N026 N023 N031 N028 N029 N032 MP_02 N014 N022 N014 N008 N024 N022 N017 N025 N007 N012 N016 N015 N004 0 0 N030 LTC3722-1
M§Q1 IN N005 N009 N009 Si7852DP m=2
XU2 N001 0 N004 N009 N005 N002 LTC4440
C1 N002 N009 .22µ
D1 N001 N002 GSD2004W-V
M§Q2 N009 N018 N020 N020 Si7852DP m=2
Q3 N001 N015 N018 0 2N4401
Q4 0 N015 N018 0 2N4403
M§Q5 IN N006 N010 N010 Si7852DP m=2
XU3 N001 0 N007 N010 N006 N003 LTC4440
C2 N003 N010 .22µ
D2 N001 N003 GSD2004W-V
M§Q6 N010 N019 N020 N020 Si7852DP m=2
Q7 N001 N016 N019 0 2N4401
Q8 0 N016 N019 0 2N4403
R1 N020 0 10m
C3 N023 0 100p
R2 N023 N020 510
L1 N010 N009 50µ
L2 N013 N011 32µ
M§Q9 N013 N021 0 0 Si7852DP m=4
L3 N011 OUT 2.4µ
C4 OUT 0 1000µ
Q10 N001 N017 N021 0 2N4401
Q11 0 N017 N021 0 2N4403
M§Q12 N011 N027 0 0 Si7852DP m=4
Q13 N001 N025 N027 0 2N4401
Q14 0 N025 N027 0 2N4403
R3 OUT N029 3.15K
R4 N029 0 1K
C5 N031 N029 .15µ
V1 IN 0 48
C6 N030 0 180p
C7 N032 0 .001µ
R5 0 N024 30K
R6 N022 N026 60K
R7 N028 0 10K
R8 N001 N012 150
C8 N012 0 1µ
R9 0 N014 4.99K
R10 IN N008 182K
R11 N008 0 30.1K
R12 N022 N014 80.6K
V2 N001 0 12
L4 N013 OUT 2.4µ
Rload OUT 0 .25
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 .99
.tran 750u startup
* LTC4440 - High Speed, High Voltage High Side Gate Driver\nLTC3722-1 - Synchronous Dual Mode Phase Modulated Full Bridge Controllers\nSynchronous Phase-Modulated Full-Bridge Converter\nInput: 36V to 72V (100V Peak Transient)     Output: 5V @ 20A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3722-1.sub
.lib LTC4440.sub
.backanno
.end
